US07759495B2
To a suspension of 1-methylimidazolidine-2-thione (5.17 g, 44.5 mmol) in acetone (50 mL) was added MeI (2.9 mL, 46.6 mmol). The solution was allowed to stir at room temperature for 4 h and the resulting solid was quickly filtered and then dried in vacuo to give 1-methyl-2-(methylthio)-4,5-dihydro-1H-imidazole hydroiodide (8.79 g, 77%) as beige solid.

reactant | 1-methylimidazolidine-2-thione | 44.5 mmol, 5.17 g | CN1C(NCC1)=S | C4H8N2S
reactant | MeI | 46.6 mmol, 2.9 mL | CI | CH3I
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | 1-methyl-2-(methylthio)-4,5-dihydro-1H-imidazole hydroiodide | 8.79 g, 77% | I.CN1C(=NCC1)SC | InChI=1S/C5H10N2S.HI/c1-7-4-3-6-5(7)8-2;/h3-4H2,1-2H3;1H
